US04616011
(a) 1-(7,8-Dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane
An amount of 131.5 gm (0.6 mol) of 7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one is suspended in 900 ml of dimethylsulfoxide and mixed with 80.8 gm (0.72 mol) of potassium tert.butoxide, with stirring. After ten minutes the solution obtained is added dropwise to 77 ml (0.72 mol) of 1-bromo-3-chloropropane in 300 ml of dimethylsulfoxide, while the mixture is cooled with ice water. After one hour, it is poured onto ice water, and shortly afterwards the greasy precipitate starts to crystallize. The precipitate is subjected to suction filtration, dissolved in acetone, precipitated again with water, subjected to suction filtration, and dried.

reactant | 7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one | 0.6 mol, 131.5 gm | COC1=CC2=C(CC(NC=C2)=O)C=C1OC | C12H13NO3
reactant | potassium tert.butoxide | 0.72 mol, 80.8 gm | CC(C)([O-])C.[K+]
reactant | 1-bromo-3-chloropropane | 0.72 mol, 77 ml | BrCCCCl | C3H6BrCl
solvent | dimethylsulfoxide | 900 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 300 ml | CS(=O)C | C2H6OS
product | 1-(7,8-Dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane | COC1=CC2=C(CC(N(C=C2)CCCCl)=O)C=C1OC | C15H18ClNO3
